US08748624B2
STEP B: ethyl 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoate
2-bromo-N-(4′-chloro-[1,1′-biphenyl]-4-yl)-4-methylbenzamide (50 mg, 0.13 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (68 g, 0.16 mmol), Pd(dppf)Cl2 (9 mg, 0.01 mmol), and 2M aqueous K2CO3 (0.13 mL g, 0.25 mmol) were dissolved in 1,4-dioxane (2 mL) and the resulting mixture was heated to 85° C. After 16 h the resulting mixture was cooled to room temperature and purified directly via column chromatography to yield the title compound.

reactant | 2-bromo-N-(4′-chloro-[1,1′-biphenyl]-4-yl)-4-methylbenzamide | 0.13 mmol, 50 mg | BrC1=C(C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)Cl)C=CC(=C1)C | C20H15BrClNO
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 0.16 mmol, 68 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 0.25 mmol, 2M, 0.13 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C=C1)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H28ClN3O4
